US09062044B2
Step F: 3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester.
A mixture of 8-benzyl-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester (1.34 g, 4.44 mmol) and wet Pd(OH)2/C (20 wt %, 938 mg) in EtOH (30 mL) was shaken under 60 psi atmosphere of H2 for 2 days at 50° C. The reaction mixture was filtered and concentrated to give title compound (1.0 g, 94%). MS (ESI) mass calcd. for C11H20N2O2, 212.29; m/z found, 213.2 [M+H]+. 1H NMR (CDCl3): 4.32-4.0 (m, 1H), 3.93-3.17 (m, 5H), 3.10-2.70 (m, 3H), 1.98-1.67 (m, 2H), 1.56-1.36 (m, 9H).

reactant | 8-benzyl-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 4.44 mmol, 1.34 g | C(C)(C)(C)OC(=O)N1CC2N(CC2CC1)CC1=CC=CC=C1 | C18H26N2O2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 938 mg | [OH-].[OH-].[Pd+2]
product | 3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 1.0 g, 94% | C(C)(C)(C)OC(=O)N1CC2NCC2CC1 | C11H20N2O2
